US08486952B2
A solution of 7-phenyl-6,7-dihydrocyclopenta[e][1,3]oxazine-2,4(3H,5H)-dione (3.751 g, 16.36 mmol) in concentrated ammonia in water (80 mL, 16.36 mmol) was heated in a 350 mL high-pressure flask for 5 h. The solvent was removed in vacuum to give 7-phenyl-6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione (3.73 g, 16.34 mmol, 100% yield) as brown solid. LC-MS (M+H)+=229.1. 1H NMR (500 MHz, dimethylsulfoxide-d6) δ ppm 7.34 (2H, t, J=7.5 Hz), 7.26 (1H, t, J=7.3 Hz), 7.18 (2H, d, J=7.3 Hz), 5.39 (1H, br s), 4.14 (1H, d, J=7.3 Hz), 2.43-2.68 (2H, m), 1.80-1.88 (2H, m).

reactant | 7-phenyl-6,7-dihydrocyclopenta[e][1,3]oxazine-2,4(3H,5H)-dione | 16.36 mmol, 3.751 g | C1(=CC=CC=C1)C1CCC=2C(NC(OC21)=O)=O | C13H11NO3
reactant | water | 16.36 mmol, 80 mL | O | H2O
reactant | ammonia | N | H3N
product | 7-phenyl-6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione | 16.34 mmol, 3.73 g, 100% yield | C1(=CC=CC=C1)C1CCC2=C1NC(NC2=O)=O | C13H12N2O2
